US07842688B2
c) [3-Methoxy-2-(2-methoxyethoxy)phenyl]methanol
Analogously to Method F, 2.44 g of 2-hydroxymethyl-6-methoxyphenol and 2.56 g of 2-bromoethyl methyl ether are reacted and the title compound is obtained as a colourless oil. Rf=0.22 (1:1 EtOAc-heptane); Rt=2.91.

reactant | 2-hydroxymethyl-6-methoxyphenol | 2.44 g | OCC1=C(C(=CC=C1)OC)O | C8H10O3
reactant | 2-bromoethyl methyl ether | 2.56 g | COCCBr | C3H7BrO
product | [3-Methoxy-2-(2-methoxyethoxy)phenyl]methanol | COC=1C(=C(C=CC1)CO)OCCOC | C11H16O4
